US06355633B1
3-[(Methoxycarbonyl)methylthio]benzoic Acid
From methyl bromoacetate and 3-mercaptobenzoic acid (30%): MS (ES-Neg): [M−H]− 225.

reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
reactant | 3-mercaptobenzoic acid | SC=1C=C(C(=O)O)C=CC1 | C7H6O2S
product | 3-[(Methoxycarbonyl)methylthio]benzoic Acid | COC(=O)CSC=1C=C(C(=O)O)C=CC1 | C10H10O4S
